* PEX produced on Mi 16. Sep 18:31:34 CEST 2026 using scripts/sak-pex.sh with m=3 and s=1 (extresist threshold=10000 mOhm, minres=1000 mOhm, mindelay=1 ps)
* NGSPICE file created from hv_mux4_pex.ext - technology: ihp-sg13cmos5l

.subckt hv_mux4_pex nsel1 VDD out VSS in3 in1 in4 in2 nsel2 nsel3 nsel4
X0 VSS.t48 nsel1 hv_nor_0.out VSS.t47 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X1 a_292_286# in1 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X2 VDD in3 a_4692_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X3 a_6892_286# nsel4 hv_nor_1.out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X4 a_11292_286# hv_nor_2.out a_10192_286# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X5 out hv_nor_1.out VSS.t29 VSS.t28 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X6 VDD in3 a_4692_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X7 VSS.t66 nsel2 hv_nor4_0.in2 VSS.t65 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X8 a_10192_286# hv_nor_2.out a_11292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X9 VSS.t45 nsel1 hv_nor_0.out VSS.t44 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X10 hv_nor_0.out in1 VSS.t59 VSS.t60 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X11 hv_nor_2.out in3 VSS.t73 VSS.t74 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X12 VSS.t10 nsel4 hv_nor_1.out VSS.t9 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X13 out hv_nor_0.out VSS.t24 VSS.t25 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X14 VSS.t34 hv_nor_1.out out VSS.t33 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X15 VDD in2 a_2492_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X16 a_9092_286# hv_nor_0.out out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X17 a_292_286# nsel1 hv_nor_0.out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X18 a_292_286# in1 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X19 out hv_nor_0.out a_9092_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X20 hv_nor_0.out in1 VSS.t57 VSS.t56 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X21 hv_nor_2.out nsel3 VSS.t78 VSS.t77 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X22 VSS.t31 hv_nor_1.out out VSS.t30 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X23 VDD in1 a_292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X24 a_6892_286# nsel4 hv_nor_1.out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X25 out hv_nor_0.out VSS.t22 VSS.t21 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X26 out hv_nor_2.out VSS.t38 VSS.t39 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X27 a_10192_286# hv_nor_2.out a_11292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X28 VDD hv_nor_1.out a_11292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X29 VSS.t62 in1 hv_nor_0.out VSS.t61 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X30 VSS.t69 nsel2 hv_nor4_0.in2 VSS.t68 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X31 VSS.t76 in3 hv_nor_2.out VSS.t75 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X32 VSS.t27 hv_nor_0.out out VSS.t26 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X33 a_4692_286# nsel3 hv_nor_2.out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X34 VDD in2 a_2492_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X35 a_4692_286# nsel3 hv_nor_2.out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X36 a_10192_286# hv_nor4_0.in2 a_9092_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X37 out hv_nor_2.out VSS.t36 VSS.t35 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X38 a_292_286# nsel1 hv_nor_0.out VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X39 a_2492_286# nsel2 hv_nor4_0.in2 VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X40 out hv_nor_0.out a_9092_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X41 VSS.t59 in1 hv_nor_0.out VSS.t58 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X42 VSS.t80 nsel3 hv_nor_2.out VSS.t79 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X43 VSS.t73 in3 hv_nor_2.out VSS.t72 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X44 VSS.t24 hv_nor_0.out out VSS.t23 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X45 VSS.t41 hv_nor_2.out out VSS.t40 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X46 hv_nor_0.out nsel1 a_292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X47 VDD in1 a_292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X48 hv_nor4_0.in2 in2 VSS.t17 VSS.t18 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X49 hv_nor_2.out nsel3 VSS.t80 VSS.t81 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X50 hv_nor_1.out in4 VSS.t3 VSS.t4 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X51 a_2492_286# nsel2 hv_nor4_0.in2 VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X52 hv_nor_1.out nsel4 a_6892_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X53 a_6892_286# in4 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X54 VDD hv_nor_1.out a_11292_286# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X55 hv_nor_1.out nsel4 a_6892_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X56 a_11292_286# hv_nor_1.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X57 hv_nor_2.out nsel3 a_4692_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X58 a_4692_286# in3 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X59 hv_nor4_0.in2 in2 VSS.t15 VSS.t14 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X60 hv_nor_1.out nsel4 VSS.t8 VSS.t7 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X61 hv_nor_1.out in4 VSS.t1 VSS.t0 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X62 out hv_nor4_0.in2 VSS.t52 VSS.t53 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X63 VSS.t38 hv_nor_2.out out VSS.t37 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X64 a_10192_286# hv_nor4_0.in2 a_9092_286# VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X65 VSS.t83 nsel3 hv_nor_2.out VSS.t82 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X66 VSS.t6 in4 hv_nor_1.out VSS.t5 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X67 hv_nor_2.out nsel3 a_4692_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X68 a_9092_286# hv_nor4_0.in2 a_10192_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X69 hv_nor_0.out nsel1 a_292_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X70 hv_nor4_0.in2 nsel2 a_2492_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X71 a_6892_286# in4 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X72 out hv_nor4_0.in2 VSS.t50 VSS.t49 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X73 VDD in4 a_6892_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=3.4p ps=20.68u w=10u l=0.4u
X74 a_11292_286# hv_nor_1.out VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X75 hv_nor4_0.in2 nsel2 VSS.t66 VSS.t67 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X76 VSS.t17 in2 hv_nor4_0.in2 VSS.t16 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X77 hv_nor_1.out nsel4 VSS.t10 VSS.t11 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X78 VSS.t3 in4 hv_nor_1.out VSS.t2 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X79 VSS.t55 hv_nor4_0.in2 out VSS.t54 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X80 a_4692_286# in3 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X81 hv_nor_0.out nsel1 VSS.t45 VSS.t46 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X82 a_9092_286# hv_nor4_0.in2 a_10192_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X83 a_11292_286# hv_nor_2.out a_10192_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X84 a_2492_286# in2 VDD VDD sg13_hv_pmos ad=3.4p pd=20.68u as=1.9p ps=10.38u w=10u l=0.4u
X85 VSS.t52 hv_nor4_0.in2 out VSS.t51 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X86 hv_nor4_0.in2 nsel2 a_2492_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X87 a_2492_286# in2 VDD VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X88 hv_nor4_0.in2 nsel2 VSS.t64 VSS.t63 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X89 hv_nor_2.out in3 VSS.t71 VSS.t70 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X90 out hv_nor_1.out VSS.t31 VSS.t32 sg13_hv_nmos ad=0.57p pd=3.38u as=0.57p ps=3.38u w=3u l=0.45u
X91 VDD in4 a_6892_286# VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X92 a_9092_286# hv_nor_0.out out VDD sg13_hv_pmos ad=1.9p pd=10.38u as=1.9p ps=10.38u w=10u l=0.4u
X93 hv_nor_0.out nsel1 VSS.t43 VSS.t42 sg13_hv_nmos ad=0.57p pd=3.38u as=1.02p ps=6.68u w=3u l=0.45u
X94 VSS.t20 in2 hv_nor4_0.in2 VSS.t19 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
X95 VSS.t13 nsel4 hv_nor_1.out VSS.t12 sg13_hv_nmos ad=1.02p pd=6.68u as=0.57p ps=3.38u w=3u l=0.45u
R0 VSS.n1 VSS.t65 29.1282
R1 VSS.n1 VSS.t79 29.1282
R2 VSS.n1 VSS.t9 29.1282
R3 VSS.n1 VSS.t2 29.1276
R4 VSS.n1 VSS.t51 29.1282
R5 VSS.n1 VSS.t42 43.8372
R6 VSS.t44 VSS.n1 29.1282
R7 VSS.n1 VSS.t60 27.0606
R8 VSS.t67 VSS.n1 27.0596
R9 VSS.t18 VSS.n1 27.0597
R10 VSS.t81 VSS.n1 27.0596
R11 VSS.n1 VSS.t72 29.1267
R12 VSS.t11 VSS.n1 27.0596
R13 VSS.t4 VSS.n1 27.0597
R14 VSS.n34 VSS.t23 29.1282
R15 VSS.n1 VSS.t37 29.1282
R16 VSS.t32 VSS.n1 27.0602
R17 VSS.n1 VSS.t75 43.837
R18 VSS.n1 VSS.t54 43.837
R19 VSS.n1 VSS.t26 43.8366
R20 VSS.t61 VSS.n1 43.8368
R21 VSS.n1 VSS.t47 43.8364
R22 VSS.t14 VSS.n1 43.8368
R23 VSS.t70 VSS.n1 43.8367
R24 VSS.t7 VSS.n1 43.8368
R25 VSS.t0 VSS.n1 43.8367
R26 VSS.t77 VSS.n1 43.8367
R27 VSS.t21 VSS.n1 43.8366
R28 VSS.t49 VSS.n1 43.8366
R29 VSS.t35 VSS.n1 43.8366
R30 VSS.n1 VSS.t63 43.8367
R31 VSS.t68 VSS.n1 43.837
R32 VSS.t16 VSS.n1 29.1282
R33 VSS.t82 VSS.n1 43.837
R34 VSS.t12 VSS.n1 43.837
R35 VSS.t56 VSS.n1 43.8375
R36 VSS.t19 VSS.n1 43.8366
R37 VSS.t5 VSS.n1 43.8366
R38 VSS.t40 VSS.n1 43.8362
R39 VSS.n1 VSS.t28 43.8376
R40 VSS.t33 VSS.n1 43.8381
R41 VSS.n1 VSS.t74 27.0606
R42 VSS.n1 VSS.t53 27.0596
R43 VSS.n34 VSS.t25 27.0597
R44 VSS.t46 VSS.n1 27.0593
R45 VSS.t30 VSS.n1 29.1261
R46 VSS.n11 VSS.n18 0.033829
R47 VSS.n5 VSS.n11 0.0516104
R48 VSS.t48 VSS.n5 2.08072
R49 VSS.n24 VSS.t57 4.24254
R50 VSS.n11 VSS.t57 4.24259
R51 VSS.n1 VSS.n30 2.4074
R52 VSS.n30 VSS.n31 0.0782111
R53 VSS.t43 VSS.n31 8.49407
R54 VSS.n29 VSS.n30 0.103352
R55 VSS.t43 VSS.n29 2.79469
R56 VSS.n52 VSS.n36 0.282601
R57 VSS.t62 VSS.n4 1.90737
R58 VSS.n4 VSS.t64 1.99601
R59 VSS.t69 VSS.n1 2.10959
R60 VSS.n1 VSS.t15 2.09039
R61 VSS.n7 VSS.n20 0.0338122
R62 VSS.n8 VSS.n7 0.0515956
R63 VSS.n8 VSS.t20 2.08073
R64 VSS.n26 VSS.t78 4.24254
R65 VSS.n7 VSS.t78 4.24259
R66 VSS.n19 VSS.n9 0.033829
R67 VSS.n10 VSS.n9 0.0516104
R68 VSS.t83 VSS.n10 2.08072
R69 VSS.n25 VSS.t71 4.24254
R70 VSS.n9 VSS.t71 4.24259
R71 VSS.n14 VSS.n16 0.0338621
R72 VSS.n15 VSS.n14 0.0516416
R73 VSS.n15 VSS.t76 2.08068
R74 VSS.n22 VSS.t8 4.24254
R75 VSS.n14 VSS.t8 4.24259
R76 VSS.n17 VSS.n12 0.0338621
R77 VSS.n13 VSS.n12 0.0516416
R78 VSS.t13 VSS.n13 2.08068
R79 VSS.n23 VSS.t1 4.24254
R80 VSS.n12 VSS.t1 4.24259
R81 VSS.t6 VSS.n32 8.49627
R82 VSS.n27 VSS.n28 0.0720879
R83 VSS.t6 VSS.n27 2.80698
R84 VSS.n1 VSS.n18 0.798178
R85 VSS.n28 VSS.n1 1.20016
R86 VSS.n32 VSS.n28 0.0544262
R87 VSS.n17 VSS.n1 0.798186
R88 VSS.n16 VSS.n1 0.798186
R89 VSS.n19 VSS.n1 0.798178
R90 VSS.n20 VSS.n1 0.798215
R91 VSS.n42 VSS.n1 8.49027
R92 VSS.n36 VSS.n1 0.689734
R93 VSS.n35 VSS.n1 0.713352
R94 VSS.n37 VSS.n1 0.199127
R95 VSS.n40 VSS.n1 4.22445
R96 VSS.n97 VSS.n1 4.22445
R97 VSS.n38 VSS.n1 4.22445
R98 VSS.n59 VSS.n1 4.22426
R99 VSS.n67 VSS.n1 4.22426
R100 VSS.n71 VSS.n1 4.22426
R101 VSS.n6 VSS.n33 0.0907972
R102 VSS.n1 VSS.n46 4.22426
R103 VSS.n53 VSS.n1 3.38414
R104 VSS.n55 VSS.n1 3.38384
R105 VSS.n63 VSS.n1 3.38384
R106 VSS.n75 VSS.n1 3.38384
R107 VSS.n61 VSS.n1 3.38384
R108 VSS.n69 VSS.n1 3.38384
R109 VSS.n57 VSS.n1 3.36713
R110 VSS.n65 VSS.n1 3.36713
R111 VSS.n73 VSS.n1 3.36713
R112 VSS.n84 VSS.n1 3.36713
R113 VSS.n88 VSS.n1 3.36713
R114 VSS.n1 VSS.n48 3.36685
R115 VSS.n33 VSS.t45 2.92093
R116 VSS.n1 VSS.t59 2.92093
R117 VSS.n1 VSS.t66 2.92093
R118 VSS.n2 VSS.t17 2.9571
R119 VSS.n98 VSS.t80 2.92093
R120 VSS.n96 VSS.t73 2.92093
R121 VSS.n87 VSS.t10 2.92093
R122 VSS.n85 VSS.t3 2.92093
R123 VSS.n47 VSS.t31 2.92093
R124 VSS.n58 VSS.t38 2.92093
R125 VSS.n66 VSS.t52 2.92093
R126 VSS.n72 VSS.t24 2.92093
R127 VSS.n49 VSS.t34 2.9203
R128 VSS.n45 VSS.t29 2.9203
R129 VSS.n56 VSS.t41 2.9203
R130 VSS.n60 VSS.t36 2.9203
R131 VSS.n64 VSS.t55 2.9203
R132 VSS.n68 VSS.t50 2.9203
R133 VSS.n74 VSS.t27 2.9203
R134 VSS.n70 VSS.t22 2.9203
R135 VSS.n103 VSS.n1 2.82733
R136 VSS.n90 VSS.n1 2.82711
R137 VSS.n93 VSS.n1 2.82711
R138 VSS.n101 VSS.n1 2.82711
R139 VSS.n26 VSS.n20 0.0213372
R140 VSS.n23 VSS.n17 0.0213721
R141 VSS.n22 VSS.n16 0.0213721
R142 VSS.n4 VSS.n0 0.185843
R143 VSS.n18 VSS.n24 0.0213478
R144 VSS.n25 VSS.n19 0.0213478
R145 VSS.n81 VSS.n1 2.40409
R146 VSS.n82 VSS.n1 1.69431
R147 VSS.n1 VSS.n6 0.329951
R148 VSS.n86 VSS.n1 1.68315
R149 VSS.n95 VSS.n1 1.51938
R150 VSS.n99 VSS.n1 1.51938
R151 VSS.n2 VSS.n1 0.346697
R152 VSS.n51 VSS.n1 1.0578
R153 VSS.n37 VSS.n52 1.08838
R154 VSS.n41 VSS.n1 0.956906
R155 VSS.n92 VSS.n1 0.956906
R156 VSS.n39 VSS.n1 0.956906
R157 VSS.n102 VSS.n3 0.985118
R158 VSS.n1 VSS.n0 0.215882
R159 VSS.n35 VSS.n105 0.943715
R160 VSS.n31 VSS.n35 0.840845
R161 VSS.n43 VSS.n1 0.872458
R162 VSS.n79 VSS.n1 0.872458
R163 VSS.n80 VSS.n79 0.861102
R164 VSS.n78 VSS.n43 0.861102
R165 VSS.n1 VSS.n3 0.359283
R166 VSS.n26 VSS.n3 0.390791
R167 VSS.n102 VSS.n39 0.825345
R168 VSS.n21 VSS.n92 0.825345
R169 VSS.n91 VSS.n41 0.825345
R170 VSS.n51 VSS.n50 0.784455
R171 VSS.n52 VSS.n51 0.778621
R172 VSS.n105 VSS.n0 1.05273
R173 VSS.n80 VSS.n41 0.707645
R174 VSS.n92 VSS.n91 0.707645
R175 VSS.n21 VSS.n39 0.707645
R176 VSS.n77 VSS.n1 0.690073
R177 VSS.n44 VSS.n1 0.690061
R178 VSS.n50 VSS.n43 0.64563
R179 VSS.n79 VSS.n78 0.64563
R180 VSS.n77 VSS.n76 0.2818
R181 VSS.n62 VSS.n44 0.281797
R182 VSS.n50 VSS.n44 0.281277
R183 VSS.n78 VSS.n77 0.281274
R184 VSS.n86 VSS.n85 0.171
R185 VSS.n2 VSS.n104 0.156103
R186 VSS.n99 VSS.n98 0.157244
R187 VSS.n96 VSS.n95 0.157244
R188 VSS.n59 VSS.n58 0.124368
R189 VSS.n72 VSS.n71 0.124368
R190 VSS.n67 VSS.n66 0.124368
R191 VSS.n47 VSS.n46 0.124368
R192 VSS.n98 VSS.n38 0.12399
R193 VSS.n97 VSS.n96 0.12399
R194 VSS.n87 VSS.n40 0.12399
R195 VSS.n49 VSS.n48 0.110887
R196 VSS.n74 VSS.n73 0.110079
R197 VSS.n65 VSS.n64 0.110079
R198 VSS.n57 VSS.n56 0.110079
R199 VSS.n88 VSS.n87 0.103706
R200 VSS.n85 VSS.n84 0.103706
R201 VSS.n73 VSS.n72 0.103706
R202 VSS.n66 VSS.n65 0.103706
R203 VSS.n58 VSS.n57 0.103706
R204 VSS.n48 VSS.n47 0.102895
R205 VSS.n89 VSS.n88 0.0999638
R206 VSS.n84 VSS.n83 0.0999638
R207 VSS.n37 VSS.n49 0.964475
R208 VSS.n71 VSS.n70 0.0889657
R209 VSS.n68 VSS.n67 0.0889657
R210 VSS.n60 VSS.n59 0.0889657
R211 VSS.n46 VSS.n45 0.0889657
R212 VSS.n53 VSS.n45 0.0822716
R213 VSS.n75 VSS.n74 0.0819737
R214 VSS.n69 VSS.n68 0.0819737
R215 VSS.n64 VSS.n63 0.0819737
R216 VSS.n61 VSS.n60 0.0819737
R217 VSS.n56 VSS.n55 0.0819737
R218 VSS.n81 VSS.n80 0.0818101
R219 VSS.n105 VSS.n24 0.08122
R220 VSS.n102 VSS.n25 0.08122
R221 VSS.n22 VSS.n21 0.0810707
R222 VSS.n91 VSS.n23 0.0810707
R223 VSS.n104 VSS.n38 0.0792298
R224 VSS.n100 VSS.n97 0.0792298
R225 VSS.n94 VSS.n40 0.0792298
R226 VSS.n32 VSS.n81 0.073983
R227 VSS.n54 VSS.n53 0.0591914
R228 VSS.n76 VSS.n75 0.0584915
R229 VSS.n63 VSS.n62 0.0584915
R230 VSS.n55 VSS.n54 0.0584915
R231 VSS.n76 VSS.n69 0.0584915
R232 VSS.n62 VSS.n61 0.0584915
R233 VSS.n83 VSS.n42 0.0464901
R234 VSS.n100 VSS.n99 0.0458591
R235 VSS.n95 VSS.n94 0.0458591
R236 VSS.n70 VSS.n42 0.042697
R237 VSS.n82 VSS.n27 0.106798
R238 VSS.n54 VSS.n36 0.28057
R239 VSS.n89 VSS.n86 0.0323534
R240 VSS VSS.n6 0.0321092
R241 VSS.n29 VSS.n33 0.196171
R242 VSS.n6 VSS.n5 0.120715
R243 VSS.n103 VSS.n8 0.119939
R244 VSS.n13 VSS.n90 0.120017
R245 VSS.n10 VSS.n101 0.119964
R246 VSS.n93 VSS.n15 0.120017
R247 VSS.n101 VSS.n100 0.0212016
R248 VSS.n90 VSS.n89 0.0212016
R249 VSS.n94 VSS.n93 0.0212016
R250 VSS.n104 VSS.n103 0.0212012
R251 VSS.n83 VSS.n82 0.0205053
R252 VSS.t39 VSS.n1 27.0597
R253 VSS.n1 VSS.t58 29.1267
R254 VSS.n34 VSS.n1 1.102
C0 hv_nor4_0.in2 a_2492_286# 8.69073f
C1 hv_nor_0.out a_292_286# 8.69073f
C2 out hv_nor_2.out 2.8247f
C3 hv_nor_1.out out 2.36927f
C4 hv_nor4_0.in2 nsel3 0.05137f
C5 hv_nor_2.out nsel4 0.04471f
C6 hv_nor_1.out nsel4 3.28644f
C7 hv_nor4_0.in2 a_9092_286# 1.0915f
C8 nsel1 in1 0.15995f
C9 nsel2 hv_nor_0.out 0.81318f
C10 VDD a_292_286# 8.72572f
C11 hv_nor4_0.in2 hv_nor_0.out 6.71068f
C12 nsel3 hv_nor_0.out 0.77917f
C13 hv_nor4_0.in2 in3 0.03403f
C14 nsel2 VDD 2.59533f
C15 nsel3 in3 0.15995f
C16 a_9092_286# a_11292_286# 0.09208f
C17 a_9092_286# hv_nor_0.out 1.97498f
C18 VDD a_2492_286# 8.93678f
C19 a_6892_286# a_9092_286# 0.4591f
C20 a_10192_286# hv_nor4_0.in2 1.95435f
C21 hv_nor4_0.in2 VDD 3.21335f
C22 hv_nor4_0.in2 in4 0.01999f
C23 VDD nsel3 2.59533f
C24 a_10192_286# a_9092_286# 9.54026f
C25 VDD a_9092_286# 3.04503f
C26 hv_nor_0.out in3 0.77917f
C27 in2 hv_nor_2.out 0.01188f
C28 a_9092_286# in4 0.04268f
C29 a_6892_286# in3 0.04268f
C30 a_10192_286# a_11292_286# 9.42401f
C31 VDD a_11292_286# 12.1739f
C32 VDD hv_nor_0.out 3.34794f
C33 hv_nor_0.out in4 0.9409f
C34 VDD in3 3.3657f
C35 a_6892_286# VDD 8.93678f
C36 a_6892_286# in4 1.9587f
C37 a_10192_286# VDD 2.73471f
C38 hv_nor_1.out hv_nor_2.out 3.90969f
C39 VDD in4 3.3657f
C40 in2 a_4692_286# 0.04268f
C41 hv_nor4_0.in2 out 2.76855f
C42 hv_nor4_0.in2 nsel4 0.01989f
C43 out a_9092_286# 8.56124f
C44 in1 a_292_286# 1.9587f
C45 hv_nor_2.out a_4692_286# 8.69072f
C46 out a_11292_286# 0.04208f
C47 out hv_nor_0.out 3.2979f
C48 nsel2 in1 0.15995f
C49 nsel1 a_292_286# 2.06443f
C50 in1 a_2492_286# 0.04268f
C51 nsel4 hv_nor_0.out 0.77932f
C52 nsel4 in3 0.15995f
C53 a_6892_286# nsel4 2.06443f
C54 in2 nsel2 0.15995f
C55 a_10192_286# out 0.09582f
C56 hv_nor4_0.in2 in1 0.01188f
C57 in2 a_2492_286# 1.9587f
C58 VDD out 1.34633f
C59 out in4 0.01188f
C60 VDD nsel4 2.59533f
C61 nsel4 in4 0.15995f
C62 in2 hv_nor4_0.in2 2.02583f
C63 in2 nsel3 0.15995f
C64 in1 hv_nor_0.out 2.29349f
C65 in2 hv_nor_0.out 0.79514f
C66 nsel1 hv_nor_0.out 3.31097f
C67 VDD in1 3.3657f
C68 hv_nor4_0.in2 hv_nor_2.out 5.26418f
C69 hv_nor4_0.in2 hv_nor_1.out 0.12775f
C70 nsel3 hv_nor_2.out 3.28644f
C71 in2 VDD 3.3657f
C72 nsel1 VDD 2.59127f
C73 hv_nor_2.out a_11292_286# 1.30611f
C74 hv_nor_2.out hv_nor_0.out 0.13722f
C75 hv_nor_1.out hv_nor_0.out 0.16066f
C76 hv_nor_1.out a_11292_286# 1.08599f
C77 hv_nor_2.out in3 2.02367f
C78 hv_nor_1.out in3 0.01188f
C79 a_4692_286# a_2492_286# 0.4591f
C80 a_6892_286# hv_nor_1.out 8.69072f
C81 a_10192_286# hv_nor_2.out 1.63095f
C82 VDD hv_nor_2.out 3.21916f
C83 VDD hv_nor_1.out 5.15585f
C84 hv_nor_2.out in4 0.02815f
C85 nsel3 a_4692_286# 2.06443f
C86 hv_nor_1.out in4 2.02202f
C87 a_2492_286# a_292_286# 0.4591f
C88 a_4692_286# in3 1.9587f
C89 a_6892_286# a_4692_286# 0.4591f
C90 nsel2 a_2492_286# 2.06443f
C91 VDD a_4692_286# 8.93678f
C92 hv_nor4_0.in2 nsel2 3.28644f
C93 out VSS 14.77005f
C94 VDD VSS 11.22346f
C95 a_11292_286# VSS 3.98041f
C96 a_10192_286# VSS 6.79346f
C97 a_9092_286# VSS 3.93f
C98 a_6892_286# VSS 1.4887f
C99 a_4692_286# VSS 1.48454f
C100 a_2492_286# VSS 1.48454f
C101 a_292_286# VSS 2.01216f
C102 VSS.t78 VSS 1.27156f
C103 VSS.t3 VSS 1.26729f
C104 VSS.t38 VSS 0.63578f
C105 VSS.t29 VSS 3.92621f
C106 VSS.t24 VSS 3.85542f
C107 VSS.t66 VSS 1.27156f
C108 VSS.t48 VSS 1.38609f
.ends

